US09212190B2
To a solution of 2-[(3R)-12-[[4-(morpholin-4-yl)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]ethan-1-ol (202 mg, 0.50 mmol, 1.00 equiv) in N,N-dimethylformamide (5 mL) was added MsCl (86 mg, 0.75 mmol, 1.50 equiv) and triethylamine (153 mg, 1.51 mmol, 3.00 equiv) at 0° C. under nitrogen. The resulting solution was stirred for 2 h at room temperature and diluted with DCM (80 mL), washed with brine, dried over anhydrous sodium sulfate and concentrated under vacuum to give the desired 2-[(3R)-12-[[4-(morpholin-4-yl)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]ethyl methanesulfonate (230 mg, 95%) as a white solid. MS (ES): m/z 482 [M+H]+.

reactant | 2-[(3R)-12-[[4-(morpholin-4-yl)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]ethan-1-ol | 0.50 mmol, 202 mg, 1.00 equiv | N1(CCOCC1)C1CCC(CC1)OC1=NC=NC=2SC=3CC[C@@H](C3C12)CCO | C21H29N3O3S
reactant | MsCl | 0.75 mmol, 86 mg, 1.50 equiv | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 1.51 mmol, 153 mg, 3.00 equiv | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | DCM | 80 mL | C(Cl)Cl | CH2Cl2
product | 2-[(3R)-12-[[4-(morpholin-4-yl)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]ethyl methanesulfonate | 230 mg, 95% | CS(=O)(=O)OCC[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)N1CCOCC1 | C22H31N3O5S2
